datasets/RMG-dataset.csv
rxn,Ea
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0]([H:2])([H:3])[H:4].[O:1]([H:5])[C:6](=[C:7]([H:9])[H:10])[H:8],138.885
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][C:14](=[C:15]([H:17])[H:18])[H:16],75.312
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([H:31])([H:32])[H:33])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27]([C:28]([H:31])([H:32])[H:33])([H:29])[H:30])[H:15])([H:13])[H:14],19.8322
[S:0]=[C:1][S:2][H:3].[S:4]([S:5][H:7])[H:6]>>[S:0]=[C:1]([S:2][H:3])[H:6].[S:4][S:5][H:7],-10.8784
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24],99.119
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])([H:30])([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:22]([C:21]([H:30])([H:31])[H:32])([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])[H:11],32.2586
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])([H:14])[H:15],48.5344
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([O:6][O:7][H:16])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([O:6][O:7][H:16])([H:12])[C:3]([H:13])([H:14])[O:4]1.[O:5][H:15],46.4424
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:10],125.030472
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[S:10]=[C:11]([C:12]([S:13][H:17])([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:15])[H:5].[S:10]=[C:11]([C:12]([S:13][H:17])[H:16])[H:14],7.5312
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[H:13]>>[C:0]([C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[H:9])[H:7])([H:4])([H:5])[H:6].[H:8][H:13],0.0
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][O:5][H:14])[H:10])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[O:4]1)([H:6])([H:7])[H:8].[O:5][H:14],40.9542472
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22][H:23]>>[C:0]([C:1]1[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:10][O:21][O:22][H:23],43.932
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])([O:6][O:7][H:16])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([O:6][O:7][H:16])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[O:4]1.[O:5][H:15],46.4424
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32],2.9288
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[O:14][O:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][O:14][O:15],6.94544
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[S:6])[H:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5](=[S:6])[H:7],71.9648
